US07638568B2
Synthesis of isodecyl benzoate
A 4 liter distillation flask with top-mounted water separator and reflux condenser and also with a sampling port and thermometer was charged with 976 g of benzoic acid (8 mol), 1872 g (12 mol) of isodecanol (Exxal 10, ExxonMobil) and 0.59 g of butyl titanate (0.06% based on the amount of acid) and this initial charge was heated at boiling under a nitrogen atmosphere. The water of reaction produced during the esterification was taken off at regular intervals. When the acid number fell below 0.1 mg KOH/g, after about 3 hours, the excess alcohol was distilled off under reduced pressure through a 10 cm column with Raschig rings. Thereafter the mixture was cooled to 80° C. and transferred to a 4 liter reaction flask with dip tube, top-mounted dropping funnel and column, and attached to a Claisen bridge. It was then neutralized with 5% strength by weight aqueous sodium hydroxide solution (10-fold excess of alkali). The mixture was subsequently heated to 190° C. under reduced pressure (10 mbar). Then 8% by weight of fully demineralized water, based on the amount of crude ester employed, were added dropwise at constant temperature through the dropping funnel. After the water had been added the heating was shut off and cooling took place under reduced pressure. At room temperature, the ester was filtered off on a suction filter with filter paper and filter aid. Gas chromatography indicated a purity for the ester of 99.7%.

reactant | benzoic acid | 8 mol, 976 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | isodecanol | 12 mol, 1872 g | C(CCCCCCC(C)C)O | C10H22O
reactant | KOH | below 0.1 mg | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | butyl titanate | 0.59 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
solvent | water | O | H2O
product | isodecyl benzoate | C(C1=CC=CC=C1)(=O)OCCCCCCCC(C)C | C17H26O2
